US07285558B2
2-[(5-chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-3-{1-methyl-4-[(1Z)-2,2,2-trifluoro-N-hydroxyethanimidoyl]-1H-pyrrol-2-yl}-2H-pyrazolo[3,4-d]pyrimidine 4,6(5H,7H)-dione
Hydroxylamine hydrochloride (0.062 g) was added to a solution of 2-[(5-chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-3-[1-methyl-4-(trifluoroacetyl)-1H-pyrrol-2-yl]-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (0.05 g) and triethylamine (0.063 ml) in dimethylacetamide (5 ml) and the mixture heated at 80° C. for 2 hours. Additional hydroxylamine hydrochloride (0.062 g) was added and the reaction continued at 80° C. for another 3 hours. Cooled, concentrated, and the crude residue purified on preparative HPLC to give the title compound (0.015 g). Mass: 574.17 (M+H).

reactant | Hydroxylamine hydrochloride | 0.062 g | Cl.NO
reactant | 2-[(5-chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-3-[1-methyl-4-(trifluoroacetyl)-1H-pyrrol-2-yl]-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.05 g | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N(C=C(C1)C(C(F)(F)F)=O)C)=O)C)=O)CC1CC1 | C26H22ClF3N6O3
reactant | triethylamine | 0.063 ml | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 0.062 g | Cl.NO
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 2-[(5-chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-3-{1-methyl-4-[(1Z)-2,2,2-trifluoro-N-hydroxyethanimidoyl]-1H-pyrrol-2-yl}-2H-pyrazolo[3,4-d]pyrimidine 4,6(5H,7H)-dione | 0.015 g | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N(C=C(C1)/C(/C(F)(F)F)=N/O)C)=O)C)=O)CC1CC1 | C26H23ClF3N7O3
